### PR TITLE
Moved some rules from invertible typing to replacement typing

### PR DESCRIPTION
**Pull request by luuuwang7**
Removed from invertible typing: ty_dec_trm_inv, ty_dec_typ_inv, ty_all_inv, ty_and_inv, ty_top_inv
Added to replacement typing: ty_top_r, ty_dec_trm_r, ty_dec_typ_r, ty_all_r

### CODE REVIEW

File: src/extensions/paths/ReplacementTyping.v [hunk 1]
```diff
@@ -384,6 +409,7 @@ Proof.
     right. destruct H0 as [T4 [Hl Hr]]. exists ({a ⦂ T4}). split; auto.
 Qed.
 
+
```
Comment (amaurremi) [inline src/extensions/paths/ReplacementTyping.v]: remove second empty line please

File: src/extensions/paths/ReplacementTyping.v [hunk 2]
```diff
@@ -545,7 +709,7 @@ Lemma repl_top: forall G r T,
     G ⊢// r: T ->
     G ⊢// r: ⊤.
 Proof.
-  introv Hr. apply repl_to_inv in Hr as [? ?]. constructor*.
```
Comment (amaurremi) [inline src/extensions/paths/ReplacementTyping.v:548]: This lemma could be removed now since we have a constructor that does just that.

File: src/extensions/paths/ReplacementTyping.v (hunk 1 above)
Comment (amaurremi) [inline src/extensions/paths/ReplacementTyping.v:412]: remove second empty line please

File: src/extensions/paths/ReplacementTyping.v [hunk 3]
```diff
@@ -395,6 +421,102 @@ Proof.
   destruct replacement_repl_closure_pq_helper_mutind; eauto.
 Qed.
 
+Lemma pt2_field_elim_p: forall G p q a U,
```
Comment (amaurremi) [inline src/extensions/paths/ReplacementTyping.v:424]: Could this go into `PreciseTyping.v`?

File: src/extensions/paths/ReplacementTyping.v [hunk 4]
```diff
@@ -645,12 +809,36 @@ Lemma repl_to_invertible_sngl: forall G p q U,
...
+  - destruct (pt2_qbs_typed _ Hi H H0 Hq) as [T Hq0bs].
+    specialize (IHHp _ Hi eq_refl _ Hq0bs).
+    destruct IHHp as [q' [S [Hr [Hq' [Heq | Hq0']]]]]. subst.
+    + exists (q0 •• bs) T. split; auto. split; auto. right.
+      eapply pt3_trans_trans; eauto.
+    + exists q' S. split; auto. split; auto. right. eapply pt3_sngl_trans; eauto.
+      eapply pt2_field_trans; eauto.
 Qed.
 
+Lemma invertible_repl_closure_comp_typed: forall G p q q',
```
Comment (amaurremi) [inline src/extensions/paths/ReplacementTyping.v:821]: Let's put this lemma in `InvertibleTyping.v`.

File: src/extensions/paths/ReplacementTyping.v [hunk 5]
```diff
@@ -89,32 +90,72 @@ Inductive ty_repl : ctx -> path -> typ -> Prop :=
...
+  G ⊢# S2 <: S1 ->
+  (forall y, y \notin L ->
+   G & y ~ S2 ⊢ open_typ y T1 <: open_typ y T2) ->
+  G ⊢// p : ∀(S2) T2
 
 where "G '⊢//' p ':' T" := (ty_repl G p T).
 
 Hint Constructors ty_repl.
 
+
```
Comment (amaurremi) [inline src/extensions/paths/ReplacementTyping.v:158]: Let's remove this second empty line.

**Review by amaurremi — CHANGES_REQUESTED** [review]
This change looks great to me, thank you very much for implementing it. I did not expect that it would be possible to remove intersection introduction from invertible typing, that's really cool! I added some minor comments that are just about spacing/moving around stuff.
